US05618528
N-(N-(1,1-Dimethylethoxycarbonyl)leucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide. N-(1,1-Dimethylethoxycarbonyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide (5.22 g, 8 mmol) was treated with excess hydrogen chloride in dichloromethane (50 mL) for 1 h. Water (50 mL) was added and the mixture was stirred vigorously for 15 min. The solvent and excess reagent were evaporated from the aqueous layer under reduced pressure to give crude glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide hydrochloride as a white solid. This material was stirred with N,N-diisopropylethylamine (3.231 g, 25 mmol) and N-(1,1-dimethylethoxycarbonyl)leucine 2,4,5-trichlorophenyl ester (3.19 g, 7.8 mmol) (Example II, Intermediate A) in dimethylformamide (30 mL) for 3 d. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and was washed with aqueous sodium hydroxide (5%), aqueous sulphuric acid (10%) and water and was dried with anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave N-(N-(1,1-dimethylethoxycarbonyl)leucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide (3.26 g, 78%).

reactant | N-(N-(1,1-Dimethylethoxycarbonyl)leucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide | C1(=CC=CC=C1)COC(=O)N(C)CC(=O)NCCNC(CNC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)=O | C26H41N5O7
reactant | N-(1,1-Dimethylethoxycarbonyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide | 8 mmol, 5.22 g | C1(=CC=CC=C1)COC(=O)N(C)CC(=O)NCCNC(CNC(=O)OC(C)(C)C)=O | C20H30N4O6
reactant | hydrogen chloride | Cl | ClH
reactant | Water | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide hydrochloride | Cl.C1(=CC=CC=C1)COC(=O)N(C)CC(=O)NCCNC(CN)=O | InChI=1S/C15H22N4O4.ClH/c1-19(10-14(21)18-8-7-17-13(20)9-16)15(22)23-11-12-5-3-2-4-6-12;/h2-6H,7-11,16H2,1H3,(H,17,20)(H,18,21);1H
